US04187216
10 g (0.025 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline anilide were dissolved in 50 ml of 4-N hydrogen bromide in acetic acid and the solution was stirred at room temperature for 1 hour. 300 ml of dry ether were then added. An oil precipitated out and was allowed to settle. The solution was decanted off and the oil was washed with two 150 ml portions of ether, dissolved in the minimum volume of methanol and treated with an excess of ethyl acetate. The product soon crystallised, there being obtained 7.2 g (83%) of L-alanyl-L-proline anilide hydrobromide of melting point 211°-214° C.

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline anilide | 0.025 mol, 10 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | C22H25N3O4
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanyl-L-proline anilide hydrobromide | 7.2 g, 83% | Br.N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1 | InChI=1S/C14H19N3O2.BrH/c1-10(15)14(19)17-9-5-8-12(17)13(18)16-11-6-3-2-4-7-11;/h2-4,6-7,10,12H,5,8-9,15H2,1H3,(H,16,18);1H/t10-,12-;/m0./s1
